US08134001B2
In a manner similar to the method described in Example 50a, 5-bromo-2-fluorobenzaldehyde (4.1 g, 20 mmol) (Alfa) was reacted with methyl 3-chloro-4-hydroxybenzoate (4 g, 21 mmol)(Lancaster) and K2CO3 in N,N-dimethylacetamide to give 4-(4-bromo-2-formyl-phenoxy)-3-chloro-benzoic acid methyl ester as an off white solid (Yield 3.7 g, 50%).

reactant | 5-bromo-2-fluorobenzaldehyde | 20 mmol, 4.1 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | methyl 3-chloro-4-hydroxybenzoate | 21 mmol, 4 g | ClC=1C=C(C(=O)OC)C=CC1O | C8H7ClO3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 4-(4-bromo-2-formyl-phenoxy)-3-chloro-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)OC1=C(C=C(C=C1)Br)C=O)Cl)=O | C15H10BrClO4
